US09079880B2
Add palladium hydroxide (3.0 g, 21 mmol) to a solution of 3-((R)-1-benzyloxycarbonyl-ethoxy)-benzoic acid methyl ester (14 g, 45 mmol) in MeOH (400 mL). De-gas the mixture with Argon for 10 minutes then place under 60 psi of hydrogen. Shake the vessel for 2 hours. Filter the mixture through a pad of diatomaceous earth and concentrate under reduced pressure. Triturate the residue with a mixture of hexanes and methylene chloride to provide 7.5 g of 3-((R)-1-carboxy-ethoxy)-benzoic acid methyl ester as a solid.

reactant | 3-((R)-1-benzyloxycarbonyl-ethoxy)-benzoic acid methyl ester | 45 mmol, 14 g | COC(C1=CC(=CC=C1)O[C@H](C)C(=O)OCC1=CC=CC=C1)=O | C18H18O5
solvent | MeOH | 400 mL | CO | CH4O
catalyst | palladium hydroxide | 21 mmol, 3.0 g | [OH-].[Pd+2].[OH-]
product | 3-((R)-1-carboxy-ethoxy)-benzoic acid methyl ester | 7.5 g | COC(C1=CC(=CC=C1)O[C@H](C)C(=O)O)=O | C11H12O5
